US03980788
A solution of 2.14 g. of 4-dimethylaminopiperidine and 4.0 g. of 9-acetoxyxanthene in 100 ml. of sieve dried benzene was refluxed for 24 hours. The mixture was then washed with a 5 percent aqueous solution of sodium carbonate, dried and the solvent removed in vacuo. The residue was recrystallized three times from hexane to afford 1-(9-xanthenyl)-4-dimethylaminopiperidine, m.p. 92°-93°C.

reactant | 4-dimethylaminopiperidine | CN(C1CCNCC1)C | C7H16N2
reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(9-xanthenyl)-4-dimethylaminopiperidine | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1CCC(CC1)N(C)C | C20H24N2O
